US07008945B1
3-(5-benzamido-2-chlorophenyl)-7-methoxy-3,4-dihydroquinazolin-4-one
Triethyl orthoformate (0.189 ml) was added to a stirred mixture of N-(5-benzamido-2-chlorophenyl)-2-amino-4-methoxybenzamide (0.15 g), ethanol (10 ml) and glacial acetic acid (0.022 ml) and the resultant mixture was heated to 70° C. for 16 hours. The mixture was evaporated. The residue was partitioned between methylene chloride and a saturated aqueous solution of sodium bicarbonate. The organic phase was dried (MgSO4) and evaporated and the residue was triturated under a mixture of ethyl acetate and diethyl ether. The material so obtained was further purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Hengoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and a saturated aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound (0.054 g); NMR Spectrum: (DMSOd6) 3.92 (s, 3H), 7.12–7.22 (m, 2H), 7.48–7.6 (m, 3H), 7.68 (d, 1H), 7.88–8.0 (m, 3H), 8.04–8.12 (m, 2H), 8.28 (m, 1H), 10.06 (s, 1H); Mass Spectrum: M+H+ 406 and 408.

reactant | Triethyl orthoformate | 0.189 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | N-(5-benzamido-2-chlorophenyl)-2-amino-4-methoxybenzamide | 0.15 g | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)NC(C1=C(C=C(C=C1)OC)N)=O)Cl | C21H18ClN3O3
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 0.022 ml | C(C)(=O)O | C2H4O2
product | 3-(5-benzamido-2-chlorophenyl)-7-methoxy-3,4-dihydroquinazolin-4-one | 0.054 g | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)N1C=NC2=CC(=CC=C2C1=O)OC)Cl | C22H16ClN3O3
